US04018773
trans-1,2,3,4-Tetrahydro-3-(4-phenyl-1-piperazinyl)-2-naphthalenol
A solution of 7.30 g of 2,3-epoxy-1,2,3,4-tetrahydronaphthalene, 8.91 g of N-phenylpiperazine, and 19 ml of isopropanol in 50 ml of xylene is refluxed for five days. The xylene is removed in vacuo leaving a solid residue, which yields 9.9 g of crude material on trituration with isopropyl ether. Two recrystallizations from ethyl acetate yield 6.5 g of the title compound, melting point 152°-154° C.

reactant | 2,3-epoxy-1,2,3,4-tetrahydronaphthalene | 7.30 g | O1C2CC3=CC=CC=C3CC21 | C10H10O
reactant | N-phenylpiperazine | 8.91 g | C1(=CC=CC=C1)N1CCNCC1 | C10H14N2
reactant | isopropanol | 19 ml | C(C)(C)O | C3H8O
reactant | isopropyl ether | C(C)(C)OC(C)C | C6H14O
solvent | xylene | 50 ml | C=1(C(=CC=CC1)C)C | C8H10
product | trans-1,2,3,4-Tetrahydro-3-(4-phenyl-1-piperazinyl)-2-naphthalenol | 9.9 g | C1(=CC=CC=C1)N1CCN(CC1)[C@H]1[C@@H](CC2=CC=CC=C2C1)O | C20H24N2O
